US07199239B2
Intermediate 27: Ethyl [2-methyl-4-({propyl[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}methyl)phenoxy]acetate
To a solution of N-propyl-N-[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amine (69.8 mg, 0.25 mmol) in anhydrous MeCN (6 mL) under nitrogen at room temperature, was added ethyl [4-(bromomethyl)-2-methylphenoxy]acetate (71.8 mg, 0.25 mmol) and N,N-diisopropyethylamine (43.5 μL, 0.25 mmol). The resultant mixture was heated to reflux and stirred for 3 h. The reaction mixture was allowed to cool to room temperature and the solvent was removed in vacuo. The residue was partitioned between CHCl3 (2×10 mL) and water (10 mL). The organic solution was passed through a hydrophobic frit and the solvent was removed in vacuo. Purification by SPE (5 g Silica cartridge eluted with 1:200 EtOAc:cyclohexane afforded the title compound as a colourless oil (88 mg).

reactant | N-propyl-N-[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amine | 0.25 mmol, 69.8 mg | C(CC)NC=1C=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F | C16H16F3N
reactant | ethyl [4-(bromomethyl)-2-methylphenoxy]acetate | 0.25 mmol, 71.8 mg | BrCC1=CC(=C(OCC(=O)OCC)C=C1)C | C12H15BrO3
reactant | N,N-diisopropyethylamine | 0.25 mmol, 43.5 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | MeCN | 6 mL | CC#N | C2H3N
product | Ethyl [2-methyl-4-({propyl[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}methyl)phenoxy]acetate | 88 mg | CC1=C(OCC(=O)OCC)C=CC(=C1)CN(C=1C=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F)CCC | C28H30F3NO3
